US06660744B1
A mixture of 3-(4-phenoxyphenyl)-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.05 g, 0.00013 mol), 3-[(tert-butoxycarbonyl)(2-hydroxyethyl)amino]propanoic acid (0.038 g, 0.000163 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.031 g, 0.000163 mol), N,N-diisopropylethylamine (0.031 g, 0.00024 mol) and 1-hydroxy-7-azabenzotriazole (0.018 g, 0.00013 mol) in anhydrous dichloromethane (5 mL) was stirred for 18 hours at room temperature. The solvent was removed under reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield tert-butyl N-(3-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}-3-oxopropyl)-N-(2-hydroxyethyl)carbamate (0.050 g, 0.000083 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 10.4 min. MS: MH+ 602.

reactant | 3-(4-phenoxyphenyl)-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00013 mol, 0.05 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCNCC2 | C22H22N6O
reactant | 3-[(tert-butoxycarbonyl)(2-hydroxyethyl)amino]propanoic acid | 0.000163 mol, 0.038 g | C(C)(C)(C)OC(=O)N(CCC(=O)O)CCO | C10H19NO5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.000163 mol, 0.031 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.00024 mol, 0.031 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 0.00013 mol, 0.018 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl N-(3-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}-3-oxopropyl)-N-(2-hydroxyethyl)carbamate | 0.000083 mol, 0.050 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCN(CC2)C(CCN(C(OC(C)(C)C)=O)CCO)=O | C32H39N7O5
